US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthio-3-pyrazolecarboxamide oxime (Compound No. 1-1)
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthiopyrazole (7.5 g, 20.4 mmol) and hydroxylamine hydrochloride (1.83 g, 25.5 mmol) were dissolved in 75 ml of dioxane, and then triethylamine (2.5 g, 24.5 mmol) was added at room temperature. After the mixture was stirred at room temperature for 29 hours, hydroxylamine hydrochloride (720 mg, 10.1 mmol) and triethylamine (1.0 g, 10.2 mmol) were further added, followed by stirring at room temperature for 22 hours. The reaction mixture was poured into 200 ml of iced water and extracted with 250 ml of ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then concentrated to obtain a yellow crystal. The crystal was subjected to silica gel column chromatography [eluent: mixed solvent of n-hexane and chloroform (volume ratio=1:1)] to obtain 6.98 g (17.4 mmol) of the title compound as a colorless crystal. Yield 85%.

reactant | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthiopyrazole | 20.4 mmol, 7.5 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC | C12H7Cl2F3N4S
reactant | hydroxylamine hydrochloride | 25.5 mmol, 1.83 g | Cl.NO
reactant | triethylamine | 24.5 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 10.1 mmol, 720 mg | Cl.NO
reactant | triethylamine | 10.2 mmol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | water | 200 ml | O | H2O
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | n-hexane | CCCCCC | C6H14
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-methylthio-3-pyrazolecarboxamide oxime | 17.4 mmol, 6.98 g, Yield 85% | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO)SC | C12H10Cl2F3N5OS
